US07241789B2
g). Methyl 3-(5-hydroxyindolyl)propanoate
A mixture of methyl 3-(5-benzyloxyindolyl)propanoate (1.1 g, 3.56 mmol), as prepared in the preceding step, 10% palladium(0) on carbon (100 mg) in ethanol was stirred under hydrogen for 3 h. The catalyst was removed by filtration, the filtrate was concentrated in vacuo and the residue was purified by flash column chromatography (1–5% ethyl acetate in methylene chloride) to give the title compound as a pale yellow oil (700 mg, 90%). 1H-NMR (400 M Hz, CDCl3) δ 7.18 (d, J=8.8 Hz, 1H), 7.08 (d, J=3.1 Hz, 1H), 7.02 (d, J=3.2 Hz, 1H), 6.77 (dd, J=8.8, 2.5 Hz, 1H), 6.34 (d, J=3.1 Hz, 1H), 4.75 (s, 1H), 4.40 (t, J=6.9 Hz, 2H), 3.66 (s, 3H), 2.81 (t, J=6.9 Hz, 2H).

reactant | methyl 3-(5-benzyloxyindolyl)propanoate | 3.56 mmol, 1.1 g | C(C1=CC=CC=C1)OC=1C=C2C=C(NC2=CC1)CCC(=O)OC | C19H19NO3
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium(0) | [Pd] | Pd
product | Methyl 3-(5-hydroxyindolyl)propanoate | 700 mg, 90% | OC=1C=C2C=C(NC2=CC1)CCC(=O)OC | C12H13NO3
